US04904680
(4R)-3-Benzoyl-1,1-dioxothiazolidine-4-carboxylic acid
31.3 g of methoxymethyl (4R)-3-benzoyl-1,1-dioxothiazolidine-4-carboxylate (prepared as described in Preparation 11) were dissolved in 200 ml of a 1:1 by volume mixture of trifluoroacetic acid and water, and then the mixture was stirred at room temperature for 1 hour. The reaction mixture was then concentrated by evaporation under reduced pressure to leave crystals. These crystals were washed with 150 ml of water and then recrystallized from ethyl acetate to give 21.6 g (80.3%) of the title compound in the form of colorless needles melting at 175°-176° C.

reactant | methoxymethyl (4R)-3-benzoyl-1,1-dioxothiazolidine-4-carboxylate | 31.3 g | C(C1=CC=CC=C1)(=O)N1CS(C[C@H]1C(=O)OCOC)(=O)=O | C13H15NO6S
solvent | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | water | O | H2O
product | (4R)-3-Benzoyl-1,1-dioxothiazolidine-4-carboxylic acid | 21.6 g, 80.3% | C(C1=CC=CC=C1)(=O)N1CS(C[C@H]1C(=O)O)(=O)=O | C11H11NO5S
